US09233963B2
20 g of meropenem-PNB was dissolved in 200 mL of tetrahydrofuran. 60 g of potassium phosphate monobasic (KH2PO4) dissolved in 400 mL of water was added thereto and heated to 27° C. 80 g of zinc powder was slowly added portionwise and stirred between 25 to 35° C. for 1 hour. After the completion of the reaction was confirmed, 220 mL of methylene chloride was added and stirred for 10 minutes, and then filtered to remove zinc powder. The aqueous layer was separated and washed 2 times with 100 mL of methylene chloride, by which tetrahydrofuran present in the aqueous layer was removed completely. The aqueous layer was cooled and developed in a column filled with adsorption resin SP-207 for adsorption. The resin column was washed with 2 L of water to remove potassium phosphate salt used in the reaction and impurities, and developed with 2 L of 60% methanol to elute meropenem completely. The fractions containing meropenem were collected and a buffer solution of N-methylmorpholine/acetic acid (pH 6.5) was added thereto, and concentration was conducted to a volume 10 times greater than the weight of meropenem-PNB. 1100 mL of acetone was added to generate crystal and stirred at room temperature for 1 hour. After filtration and drying, 9.78 g of meropenem trihydrate was obtained.

reactant | meropenem | 20 g | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)C(=O)N(C)C)C(=O)O)[C@@H](C)O | C17H25N3O5S
reactant | potassium phosphate monobasic | 60 g | OP(=O)(O)[O-].[K+]
reactant | methylene chloride | 220 mL | C(Cl)Cl | CH2Cl2
reactant | methanol | 2 L | CO | CH4O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 400 mL | O | H2O
catalyst | zinc | 80 g | [Zn] | Zn
product | meropenem trihydrate | 9.78 g | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)C(=O)N(C)C)C(=O)O)[C@@H](C)O.O.O.O | InChI=1S/C17H25N3O5S.3H2O/c1-7-12-11(8(2)21)16(23)20(12)13(17(24)25)14(7)26-9-5-10(18-6-9)15(22)19(3)4;;;/h7-12,18,21H,5-6H2,1-4H3,(H,24,25);3*1H2/t7-,8-,9+,10+,11-,12-;;;/m1.../s1
